US04694080
4-Decanoyloxy-2-methyl-3-(2-nonyl-1,3,4-oxadiazol-5-yl)-1,2-benzothiazine 1,1-Dioxide
A mixture of 4-hydroxy-2-methyl-3-(tetrazol-5-yl)-1,2-benzothiazine 1,1-dioxide hemihydrate (1.80 g) (6.25 mmoles) and decanoic anhydride (12 g) in toluene (20 ml) was refluxed for 16 hours. The solvent was stripped to dryness and the residue recrystallized from toluene (25 ml) to give the title compound in 68.4% yield.

reactant | 4-hydroxy-2-methyl-3-(tetrazol-5-yl)-1,2-benzothiazine 1,1-dioxide hemihydrate | 6.25 mmoles, 1.80 g | O.OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C2=NN=NN2.OC2=C(N(S(C1=C2C=CC=C1)(=O)=O)C)C1=NN=NN1
reactant | decanoic anhydride | 12 g | C(CCCCCCCCC)(=O)OC(CCCCCCCCC)=O | C20H38O3
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Decanoyloxy-2-methyl-3-(2-nonyl-1,3,4-oxadiazol-5-yl)-1,2-benzothiazine 1,1-Dioxide | 68.4% yield | C(CCCCCCCCC)(=O)OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C2=NN=C(O2)CCCCCCCCC | C30H45N3O5S
